US04235969
Conjugation of bovine serum albumin or bovine gamma globulin (BSA or BgG) and N-(N'-ethyl, N'-(3'-carboxypropyl-1') 2-aminoethyl) p-aminobenzamide
The reaction mixture composed of 153 mg (5.22 mmol) of dry Example IV (as the acid), 90 mg (7.83 mmol) of N-hydroxy succinimide and 103 mg (5.22 mmol) of dicyclohexylcarbodiimide in 3 ml anhydrous DMF was stirred at 0°-5° for 24 hrs. Within a few hours a white precipitate formed.

reactant | N-hydroxy succinimide | 7.83 mmol, 90 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 5.22 mmol, 103 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | p-aminobenzamide | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
